Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Chest, back, and knee pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ yo F h/o sickle cell anemia, asthma, seizures 
and extensive psych hx (depression w/ psychosis/PTDS/borderline 
traits) admitted with chest/back/L knee pain/LUQ, similar to 
previous sickle cell crises.  Yesterday morning she awoke with 
___ chest and back pain (baseline ___ which rose to a ___ 
by this morning involving her LUQ and many joints radiating down 
her arms.  She lives in a behavioral facility run by ___ 
___ because of suicidal ideation during pain crises, and 
her nurse gave her IV hydromorphone which eased the pain.  Last 
night she developed a cough productive of 1 teaspoon green 
sputum.  She notes that her roommate was recently sick with a 
fever.  She denies recent fever, chills or travel history, but 
confirms headache, swollen left-sided lymph node below jaw, one 
episode of vomiting without blood yesterday and diarrhea.  Has 
crises every ___ months, more recent lately.  Well known by 
psych.  She denies recent suicidal ideation.
.
Recently established care in ___ clinic with Dr. ___ 
on ___ for SCA. r/o PE and splenic thrombosis. Used to have 
port-a-cath for blood draws/access, but removed recently (had 
CNS bacteremia)
Followed at ___. psychiatrist: Dr. ___ and ___ 
___ on psych rotation who knows pt well.
.
In ED, initial vitals were  T99.3 HR96 BP126/86 RR17 100% on 2L.
CTA chest showed no evidence of pulmonary embolism but focal 
area of airspace consolidation in right upper lobe possibly 
representing infectious process.  Levofloxacin started on this 
basis.  Chest x-ray showed no definite evidence of acute focal 
pneumonia.
.
On the floor Ms. ___ was appearing to be in a lot of pain and 
sleepy.  She was in no acute respiratory distress.
 
Past Medical History:
Sickle cell (HbSS) disease with history of frequent 
hospitalizations with pain crises. s/p acute chest syndrome on 
several occasions, requiring intubation in ___. Spleen intact. 
? CVA in ___
Pulmonary embolus in ___ circumstances unclear. On 
anticoagulants with warfarin bridged with LMW heparin till INR 
therapeutic. ___ being checked weekly at ___.
Asthma
Borderline personality disorder/PTSD with history of suicidal 
ideation. Numerous hospitalizations at various psychiatric 
facilities. ? factitious disorder
Transfusion related Hepatitis C
s/p cholecystectomy
Hx of seizure disorder-details of which are unknown. 
Hx of numerous port-a-cath placements
Hx of coag negative staph and MSSA line infections
Hyperprolactinemia

 
Social History:
___
Family History:
-mother ___ sickle trait
-father ___ has sickle cell anemia

 
Physical Exam:
VS: T 99.5, BP 120/90, P 96, R 16, O2 100% on 2L 
GENERAL: Appearing to be in a good deal of pain.  In no acute 
respiratory distress.
HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No 
thyromegaly. ?Palpable left parotid.
CARDIAC: Tachycardic, regular rhythm. Normal S1, loud S2. ___ 
systolic murmur best heard at ___ with no rubs or gallops.
LUNGS: No increased work of breathing; clear to auscultation 
bilaterally.
ABDOMEN: NABS. Soft, NT, ND.  LUQ tenderness.  No HSM.
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.
SKIN: No rashes/lesions, ecchymoses. 
NEURO: A&Ox3. Attention intact.
PSYCH: Listens and responds to questions appropriately.
 
Pertinent Results:
ADMISSION LABS:
.
___ 05:55PM BLOOD WBC-9.9 RBC-2.31* Hgb-8.6* Hct-24.7* 
MCV-107*# MCH-37.1* MCHC-34.6 RDW-24.9* Plt ___
___ 05:55PM BLOOD Plt ___
___ 05:55PM BLOOD Ret Man-9.6*
___ 02:50PM BLOOD Glucose-99 UreaN-6 Creat-0.4 Na-142 K-4.3 
Cl-111* HCO3-22 AnGap-13.
.
.
PERTINENT LABS/STUDIES:
.
Hct: 24.7 -> 25.5
Plt: 530 -> 507
INR: 2.2
Reticulocyte: 9.6
Hapto: < 20
Phenytoin: 6.2
Strep: negative
HBV viral load: not detected
.
CXR (___): In comparison with study of ___, there is no 
definite evidence of acute focal pneumonia. No evidence of 
high-output state in the pulmonary vasculature. 
.
CT Chest (___): Focal area of patchy opacity located in RUL 
that is worrisome for infectious process, cannot rule out acute 
chest syndrome. No evidence of PE. Shrunken appearace of spleen, 
compatible with auto-infarction.
.
.
DISCHARGE LABS (___):
.
WBC-9.5 RBC-2.03* Hgb-7.6* Hct-21.3* MCV-105* MCH-37.5* 
MCHC-35.7* RDW-24.8* Plt ___
Glucose-94 UreaN-8 Creat-0.4 Na-138 K-4.3 Cl-107 HCO3-26 AnGap-9
ALT-38 AST-57* LD(LDH)-551* AlkPhos-169* TotBili-0.7
Phenytoin-10.5*
INR-1.6

 
Brief Hospital Course:
Ms. ___ is a ___ yo F h/o sickle cell anemia, asthma, seizures 
and extensive psych hx (depression w/ psychosis/PTDS/borderline 
traits) admitted with chest/back/L knee pain/LUQ, found to be 
secondary to sickle cell crisis.
.
#. Sickle crisis:  The patient was initially started on 
aggressive IVFs and Dilaudid IV for pain control.  Her labs are 
consistent with hemolysis and she appeared to be in sickle cell 
crisis.  She was initially treated with Levo, as she had 
evidence of PNA on CTPA; however, this was discontinued shortly 
thereafter with no evidence of infection.  She was maintained on 
O2 therapy, continued on home dose hydroxyurea and folate, and 
given IVF hydration. The patient's Dilaudid was changed from IV 
to PO and at her max, was written for ___ mg PO q6-8h prn and MS 
___ 45 mg TID (equiv 135mg/day). Patient will be discharged 
on MS ___ 60mg PO q12h (equiv 120mg/day). Plan is at rehab to 
titrate down on narcotics back down to MS ___ 30mg BID (her 
prior dose), and recommend outpatient chronic pain appointment. 
Possible MC Contin regimen recommended by Hematology - titrate 
down to 30mg PO q8h, then 15mg/30mg/15mg PO q8h. Also was 
scheduled with chronic pain management as outpatient.

#. History of PE: The patient's INR is currently therapeutic at 
2.4.  She was continued on her home dose of Coumadin 5 mg daily. 
CTA negative for PE.
*ON discharge, INR was 1.6, recommend repeat INR on ___ 
___. Extra dose of Coumadin 2.5mg given before discharge, in 
addition to usual dose of 5mg daily.
.
#. Asthma: Stable currently.  Acute chest syndrome more likely 
in sickle patients with asthma. Please continue standing 
bronchodilators and incentive spirometry.
.
#. Psych history:  The patient has a history of borderline 
personality/PTSD/factitious disorder/SI. Patient denied active 
SI. She was seen by psychiatry and social work during her 
hospitalization. Please continue home dose citalopram and 
mirtazapine. She will follow-up with her outpatient 
psychiatrist.
.
#. Seizure history (?tonic-clonic): Currently stable.  Phenytoin 
level was subtherapeutic, so she was loaded with PO Dilantin. 
Level at discharge is 10.5.
Continue phenytoin 200mg BID. Recommend rechecking level on 
___.

.
EMERGENCY CONTACT: 
Sister- ___- ___
Mother figure- ___ ___

 
Medications on Admission:
Albuterol nebulization q ___ hours prn for SOB. 
Citalopram 30 mg daily 
Dalteparin (Fragmin) 10,___aily until INR ___ 
Benadryl 25 mg PO q ___ h prn for itching 
Folic Acid 1 mg daily 
Gabapentin 300 mg qhs 
Dilaudid ___ mg PO q4h prn for pain 
Hydroxyurea 1000 mg daily 
Hydroxyzine 50 mg q6h prn for itch 
Ibuprofen 600 mg q6h prn 
Mirtazapine 7.5 mg qhs 
MS ___ 30 mg TID 
Ondansetron 4 mg q8h prn for nausea 
Phenytoin 200 mg BID 
Promethazine ___ mg q6h prn for nausea 
Ranitidine 150 mg BID 
Warfarin 5 mg qhs 
Colace 100 mg BID 
Magnesium oxide 400 mg daily 
Senna 17.2 mg qhs 
Ocean Spray Nasal Spray q4h 

 
Discharge Medications:
1. Albuterol Sulfate 1.25 mg/3 mL Solution for Nebulization Sig: 
One (1) nebulization Inhalation q3-4 hours as needed for 
shortness of breath or wheezing.  
2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
3. Benadryl 25 mg Capsule Sig: One (1) Capsule PO every ___ 
hours as needed for itching.  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
6. Dilaudid 2 mg Tablet Sig: ___ Tablets PO every four (4) hours 
as needed for pain: Hold for sedation, RR<12.  
7. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
8. Hydroxyzine HCl 50 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for itching.  
9. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.  
10. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime). 
 
11. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
12. Promethazine 25 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for nausea.  
13. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
14. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
16. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO once a 
day.  
17. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
18. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
TID (3 times a day) as needed for nasal congestion.  
19. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) 
Capsule PO BID (2 times a day).  
20. MS ___ 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO twice a day as needed for pain: hold for 
sedation, RR<12; please taper down as directed in discharge 
summary.  
21. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Sickle Cell Crisis

Secondary:
Asthma
History of pulmonary embolism
Borderline Personality Disorder

 
Discharge Condition:
Good.  The patient's VS are stable and her pain has decreased.

 
Discharge Instructions:
You were admitted to the hospital because you were having 
increased pain in your back, chest, and legs.  While you were 
here, you were found to be in a sickle cell crisis.  You were 
given aggressive intravenous fluids and you were given Dilaudid 
and MS ___ for your pain.  You were seen by Psychiatry and 
Social Work while you were here, and they agreed that ___ 
is a great place for you at the current time. We also scheduled 
follow-up with a new PCP, ___ hematologist/oncologist, and an 
appointment at the chronic pain clinic.

While you were here, we made the following changes to your 
medications:
1. We discontinued your Fragmin, as your INR is now therapeutic 
on Warfarin
2. We increased your standing MS ___ to 60mg BID. We can 
taper back to your normal dose of 15mg/30mg/15mg daily, or as 
directed in our discharge summary.  You were also written for 
your home dose of Dilaudid as needed for pain. Hold for sedation 
and respiratory rate <12.
3. We did not change your Phenytoin dose, but please follow up 
level.
4. We changed your Senna to as needed rather than a standing 
dose at night.
5. We added a standing order of Tylenol for pain control.

Please take all other medications as prescribed.

Please keep all previously scheduled appointments.

Please return to the ED or your healthcare provider if you 
experience shortness of breath, chest pain, increasing pain in 
your back, fevers, chills, or any other concerning symptoms.
 
Followup Instructions:
___